US07989450B2
3-(5-Chlorofuran-2-yl)-4-(4-fluorophenyl)-5-methylisoxazole
Prepared by dehydration/aromatisation of 3-(5-chlorofuran-2-yl)-4-(4-fluorophenyl)-5-hydroxy-5-methyl-2-isoxazoline. 89% yield. M.p. 103.7-105.2° C. FT-IR (KBr): 3147, 3077, 2931, 1637, 1595, 1522, 1508, 1445, 1418, 1403, 1236, 1230, 1223, 1203, 1158, 1135, 1018, 987, 939, 921, 896, 846, 794 cm−1. 1H NMR (500 MHz, CDCl3, δ): 7.28-7.26 (m, 2H, aromatic protons); 7.16-7.13 (m, 2H, aromatic protons); 6.29 (d, J=3.5 Hz, 1H, furyl proton); 6.15 (d, J=3.5 Hz, 1H, furyl proton); 2.37 (s, 3H, CH3). 13C NMR (75 MHz, CDCl3, δ): 167.0, 163.6, 161.7, 152.2, 143.4, 138.5, 131.8, 131.7, 125.3, 125.3, 116.0, 115.8, 113.8, 113.5, 107.9, 11.2. GC-MS (70 eV) m/z (rel.int.): 279 (M++2, 16), 277 (M+, 49), 237 (35), 236 (19), 235 (100), 234 (12), 206 (12), 172 (46), 171 (20), 170 (11), 147 (16), 145 (20), 89 (13), 43 (30). Anal. Calc. for C14H9ClFNO2: C, 60.56; H, 3.27; N, 5.04. Found: C, 60.58; H, 3.24; N, 5.01.

reactant | 3-(5-chlorofuran-2-yl)-4-(4-fluorophenyl)-5-hydroxy-5-methyl-2-isoxazoline | ClC1=CC=C(O1)C1=NOC(C1C1=CC=C(C=C1)F)(C)O | C14H11ClFNO3
reactant | KBr | [K+].[Br-]
product | 3-(5-Chlorofuran-2-yl)-4-(4-fluorophenyl)-5-methylisoxazole | 89% yield | ClC1=CC=C(O1)C1=NOC(=C1C1=CC=C(C=C1)F)C | C14H9ClFNO2
